US05331007
To a stirred solution of o-tolylacetic acid (50.0 g, 0.33 mol) in tetrahydrofuran (400 ml) and hexamethylphosphoric triamide (116 ml, 0.668 mol) at 0° C. was added n-butyllithium (416 ml of 1.6M hexane solution, 0.666 mol). The solution was warmed to ambient temperature and stirred for 0.5 hour. The solution was cooled to -78° C. and iodomethane (20.7 ml, 0.33 mol) was added and the reaction allowed to warmto room temperature and stirred for 45 minutes. The reaction mixture was cooled to 0° C. and n-butyllithium (208 ml of 1.6M hexane solution,0.333 mol) was added. The reaction was warmed to ambient temperature for 10minutes, recooled to 0° C. and benzyl bromide (40.4 ml, 0.333 mol) was added. The reaction mixture was warmed to ambient temperature and stirred at that temperature overnight. The reaction was poured into 1N HCland extracted with ethyl acetate. The organic solution was washed with water (2×) saturated sodium chloride, and dried over magnesium sulphate. Removal of the solvent gave 111 g of an oil. To a solution of the above oil (111 g) in toluene (600 ml) were added triethylamine (51 ml,0.36 mol) and diphenylphosphoryl azide (82.5 ml, 0.38 mol) and the solutionwas heated to reflux under nitrogen for 2 hours. Benzyl alcohol (138 ml, 1.3 mol) was added and the solution was refluxued overnight. The reaction was cooled to ambient temperature, diluted with ethyl acetate (300 ml), washed with 1N HCl (2×), 5% sodium hydroxide (2×), saturated sodium chloride, dried over magnesium sulphate, and the solvent removed toprovide 300 g of an oil. The above oil (300 g) was dissolved in methanol (1.81) and 3N HCl (200 ml) and hydrogenated at 40 psi of hydrogen over 10%Pd/C (17.4 g) for 2 hours. The catalyst was removed by filtration and the solvents evaporated. The residue was dissolved in chloroform (300 ml) and washed with 1N sodium carbonate (2×300ml), saturated sodium chlorideand dried over magnesium sulphate. Removal of solvent gave an oil which waspurified by silica gel chromatography, elution with ammoniated 25% ethyl acetate-hexane, to provide 14.5 g of 2-(2-methylphenyl)-1-phenyl-2-propylamine as an oil. The above oil (0.5 g)was treated with fumaric acid in ethyl acetate/isopropanol to provide 0.35 g of the title compound, mp 180°-182° C.

reactant | triethylamine | 0.36 mol, 51 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.38 mol, 82.5 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Benzyl alcohol | 1.3 mol, 138 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-methylphenyl)-1-phenyl-2-propylamine | 14.5 g | CC1=C(C=CC=C1)C(CC1=CC=CC=C1)(C)N | C16H19N
